US06013658
N-tert-butyloxycarbonylpiperidine-4-carboxylic acid (68 mg; 0.296 mmol) was dissolved in methylene chloride (7 ml). HOBT (40 mg; 0.296 mmol) and EDAC (62 mg; 0.326 mmol) were added and the mixture was stirred 15 min at RT. (2R)-2-Amino-3-(2-naphthyl)-N-((1R)-2-(2-naphthyl)-1-(1-phenethyl-1H-tetrazol-5-yl)ethyl)propionamide (152 mg; 0.296 mmol) was added and stirring was continued overnight. Methylene chloride (25 ml) was added. The organic phase was washed with aqueous sodium hydrogencarbonate (25 ml), aqueous sodium hydrogensulfate (10%; 25 ml) and water (25 ml). The organic phase was dried (Magnesium sulfate) and the solvent removed in vacuo to afford 170 mg of 4-((1R)-2-(2-Naphthyl)-1-((1R)-2-(2-naphthyl)-1-(1-phenethyl-1H-tetrazol-5-yl)ethylcarbamoyl)ethylcarbamoyl)piperidine-1-carboxylic acid tert-butylester.

reactant | N-tert-butyloxycarbonylpiperidine-4-carboxylic acid | 0.296 mmol, 68 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | HOBT | 0.296 mmol, 40 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 0.326 mmol, 62 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | (2R)-2-Amino-3-(2-naphthyl)-N-((1R)-2-(2-naphthyl)-1-(1-phenethyl-1H-tetrazol-5-yl)ethyl)propionamide | 0.296 mmol, 152 mg | N[C@@H](C(=O)N[C@H](CC1=CC2=CC=CC=C2C=C1)C1=NN=NN1CCC1=CC=CC=C1)CC1=CC2=CC=CC=C2C=C1 | C34H32N6O
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 4-((1R)-2-(2-Naphthyl)-1-((1R)-2-(2-naphthyl)-1-(1-phenethyl-1H-tetrazol-5-yl)ethylcarbamoyl)ethylcarbamoyl)piperidine-1-carboxylic acid tert-butylester | 170 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(N[C@H](CC1=CC2=CC=CC=C2C=C1)C(N[C@H](CC1=CC2=CC=CC=C2C=C1)C1=NN=NN1CCC1=CC=CC=C1)=O)=O | C45H49N7O4
